US07262201B1
Using a procedure analogous to that described in Example 23, 4-chloro-6-methoxy-7-(2-(1,2,3-triazol-1-yl)ethoxy)quinazoline (160 mg, 0.52 mol) was reacted with 3-(4-methoxyphenyl)-4,5-dihydro-1H-pyrazol-5-one (120 mg, 0.63 mol), (prepared as described for the starting material in Example 10), to give 4-(5-(4-methoxyphenyl)pyrazol-3-yloxy)-6-methoxy-7-(2-(1,2,3-triazol-1-yl)ethoxy)quinazoline (105 mg, 44%).

reactant | 4-chloro-6-methoxy-7-(2-(1,2,3-triazol-1-yl)ethoxy)quinazoline | 0.52 mol, 160 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN1N=NC=C1 | C13H12ClN5O2
reactant | 3-(4-methoxyphenyl)-4,5-dihydro-1H-pyrazol-5-one | 0.63 mol, 120 mg | COC1=CC=C(C=C1)C1=NNC(C1)=O | C10H10N2O2
product | 4-(5-(4-methoxyphenyl)pyrazol-3-yloxy)-6-methoxy-7-(2-(1,2,3-triazol-1-yl)ethoxy)quinazoline | 105 mg, 44% | COC1=CC=C(C=C1)C1=CC(=NN1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCN1N=NC=C1 | C23H21N7O4
